US06559143B1
(iii) 4-(4-Cyanophenyl)butyl methanesulfonate
Methanesulfonyl chloride (2.32 mL, 30 mmol) was added to a cooled (0° C.), stirred solution of 4-(4-hydroxybutyl)benzonitrile (from step (ii) above, 5.2 g, 29.7 mmol) and triethylamine (4.35 mL) in dichloromethane (50 mL). The resulting mixture was stirred for 4 h before water (150 mL) was added, and the organic layer separated, dried and concentrated to give the sub-title compound. This product was used directly in the next step without further purification.

reactant | Methanesulfonyl chloride | 30 mmol, 2.32 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-(4-hydroxybutyl)benzonitrile | OCCCCC1=CC=C(C#N)C=C1 | C11H13NO
reactant | triethylamine | 4.35 mL | C(C)N(CC)CC | C6H15N
reactant | water | 150 mL | O | H2O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 4-(4-Cyanophenyl)butyl methanesulfonate | CS(=O)(=O)OCCCCC1=CC=C(C=C1)C#N | C12H15NO3S
